US08048878B2
Iodotrimethylsilane (1.41 mL) was added to a solution of (6S,9aR)-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one (1.79 g) and N,N,N′,N′tetramethylethylenediamine (3.34 mL) in methylene chloride (50 mL) in a nitrogen atmosphere at 0° C., and the reaction solution was stirred at 0° C. for 30 minutes. Iodine (2.41 g) was added to the reaction solution at 0° C., and the reaction solution was stirred at 0° C. for one hour. Ethyl acetate and a saturated sodium thiosulfate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain (6S,9aR)-6-(3,4,5-trifluorophenyl)-3-iodooctahydroquinolizin-4-one. A mixture of (6S,9aR)-6-(3,4,5-trifluorophenyl)-3-iodooctahydroquinolizin-4-one with triethyl phosphite (20 mL) was stirred at 120° C. for three hours. The reaction solution was left to cool to room temperature, and then the reaction solution was concentrated under reduced pressure. Lithium hydroxide monohydrate (792 mg) was added to a mixed solution of the residue and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (1.64 g) in tetrahydrofuran (45 mL) and ethanol (15 mL) at room temperature, and the reaction solution was stirred at room temperature for four hours. Ethyl acetate was added to the reaction solution, which was then sequentially washed with saturated sodium bicarbonate water and brine. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system) and then by silica gel column chromatography (elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 2.46 g of the title compound. The property values of the compound are as follows.

reactant | Iodotrimethylsilane | 1.41 mL | I[Si](C)(C)C | C3H9ISi
reactant | (6S,9aR)-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one | 1.79 g | FC=1C=C(C=C(C1F)F)[C@H]1N2C(CCC[C@H]2CCC1)=O | C15H16F3NO
reactant | N,N,N′,N′tetramethylethylenediamine | 3.34 mL | CN(CCN(C)C)C | C6H16N2
reactant | Iodine | 2.41 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6S,9aR)-6-(3,4,5-trifluorophenyl)-3-iodooctahydroquinolizin-4-one | FC=1C=C(C=C(C1F)F)[C@H]1N2C(C(CC[C@H]2CCC1)I)=O | C15H15F3INO
